US07728018B2
5-Methyl-3a,4,5,6,7,7a-hexahydro-1H-pyrazolo[4,3-c]pyridine
3.2 g 1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carbaldehyde was dissolved in 10 mL n-BuOH. Added were 2 equiv. of hydrazine hydrate, the mixture was refluxed for 24 hours and subsequently concentrated in vacuo. The residue was taken up in DCM and extracted with 2M NaOH, and the organic phase was dried over Na2SO4, filtrated and concentrated in vacuo to yield 1.78 g of a brown oil which was used without further purification in the subsequent step.

reactant | 1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carbaldehyde | 3.2 g | CN1CC(=CCC1)C=O | C7H11NO
reactant | hydrazine hydrate | 2 equiv. | O.NN
solvent | n-BuOH | 10 mL | CCCCO | C4H10O
product | 5-Methyl-3a,4,5,6,7,7a-hexahydro-1H-pyrazolo[4,3-c]pyridine | 1.78 g | CN1CC2C(CC1)NN=C2 | C7H13N3
